US04959375
3-Dimethylamino-1-[[1-methyl-(1H)-indol 3-yl]carbonyl]piperidine
A mixture of 3 dimethylaminopiperidine dihydrochloride (18 g; 0.01 mol), triethylamine (2.5 g) and dichloromethane (50 ml) was stirred for 15 min. 1-Methylindole-3-carboxylic acid (2.1 g, 0.012 mol) was then added, followed by dicyclohexylcarbodiimide (2 5 g). The mixture was stirred for 48h, filtered and extracted with 1M hydrochloric acid (20+10+10 ml). The acid extracts were basified with ammonia and back extracted to chloroform. The chloroform extract was dried, evaporated and the residue dissolved in IPA (25 ml), then acidified with ethanolic hydrogen chloride to precipitate the hydrochloride 2.55 g, mp 250-251° C.

reactant | dimethylaminopiperidine dihydrochloride | 0.01 mol, 18 g | Cl.Cl.CN(C)N1CCCCC1
reactant | triethylamine | 2.5 g | C(C)N(CC)CC | C6H15N
reactant | 1-Methylindole-3-carboxylic acid | 0.012 mol, 2.1 g | CN1C=C(C2=CC=CC=C12)C(=O)O | C10H9NO2
reactant | dicyclohexylcarbodiimide | 5 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | 3-Dimethylamino-1-[[1-methyl-(1H)-indol 3-yl]carbonyl]piperidine | CN(C1CN(CCC1)C(=O)C1=CN(C2=CC=CC=C12)C)C | C17H23N3O
